US08119805B2
Stage (ii): 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride
Hydrogen chloride in methanol (1.25 mol/l, 6.3 ml) was added to tert-butyl 9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carboxylate (0.52 g, 1.569 mmol) and the mixture was refluxed for 1 h. The solvent was removed in vacuo, the residue taken up in ethanol (3 ml) and the mixture cooled. Acetone (80 ml) was added and the mixture was stirred in an ice bath for 30 min. The precipitate was filtered out with suction, washed with diethyl ether and dried in vacuo.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carboxylate | 1.569 mmol, 0.52 g | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C19H29N3O2
solvent | methanol | 1.25 mol/l, 6.3 ml | CO | CH4O
product | 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2 | InChI=1S/C14H21N3.2ClH/c1-7-15-8-2-13(1)17-11-5-14(6-12-17)3-9-16-10-4-14;;/h1-2,7-8,16H,3-6,9-12H2;2*1H
